US05021481
4-n-Butylamino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine
A mixture of 9.5 grams (37.5 mmol) of 1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-one, 13.7 grams (187 mmol) of n-butylamine, 0.4 gram of platinum oxide, and 120 ml of ethanol is hydrogenated on a Parr apparatus (50 psi, ambient temperature) till hydrogen uptake ceases. The catalyst is removed by filtration and the filtrate is evaporated to afford 10.8 grams (93% yield) of the title compound as a colorless syrup.

reactant | 1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-one | 37.5 mmol, 9.5 grams | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | n-butylamine | 187 mmol, 13.7 grams | C(CCC)N | C4H11N
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.4 gram | [Pt]=O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-n-Butylamino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine | 10.8 grams, 93% yield | C(CCC)NC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C19H38N2O
